US05453424
(14) 2-Pivaloyl-3-furoic acid
A solution of 3-furoic acid (8.97 g, 0.08 mol) in tetrahydrofuran (200 ml) was cooled to -70° C. and a 2.0M solution of lithium diisopropylamide in THF-ethylbenzene-heptane (80 ml, 0.16 mol) was added dropwise over 3/4 hr at -70° to -20° C. under nitrogen to give a tan suspension. A red solution formed after stirring for 113/4 hours at -20° C. To this solution was added N-methoxy-N-methylpivalamide (11.67 g, 0.08 mol) in tetrahydrofuran (10 ml) at -40° C. The reaction mixture was left at ambient temperature overnight. Then ,it was cooled in ice and neutralized with 6N ethanolic hydrogen chloride (50 ml). The neutralized solution was acidified with 1.5N HCl (150 ml) and was extracted with ether (300 ml). The ether extracts were washed with saturated NaCl, dried over Na2SO4, filtered and concentrated in vacuo to a brown solid (15.4 g). Chromatography on silica gel using hexane-THF-acetic acid (10-2-0.2) gave a yellow solid (9.8 g), mp 85°-89° C.

reactant | 3-furoic acid | 0.08 mol, 8.97 g | O1C=C(C=C1)C(=O)O | C5H4O3
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | THF ethylbenzene heptane | 0.16 mol, 80 ml | C1CCOC1.C(C)C1=CC=CC=C1.CCCCCCC
reactant | N-methoxy-N-methylpivalamide | 0.08 mol, 11.67 g | CON(C(C(C)(C)C)=O)C | C7H15NO2
reactant | hydrogen chloride | 6N, 50 ml | Cl | ClH
reactant | HCl | 1.5N, 150 ml | Cl | ClH
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-Pivaloyl-3-furoic acid | 9.8 g | C(C(C)(C)C)(=O)C=1OC=CC1C(=O)O | C10H12O4
